US08420816B2
To a solution of 1-tert-butyl 4-methyl 3-(((1-(tert-butoxycarbonyl)pyrrolidin-3-yl)methylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate (70 mg, 0.143 mmol) in dioxane (2 mL) was added 1N LiOH (0.358 mL, 0.358 mmol) at 0° C. and stirred for 4 h at rt. The reaction mixture was extracted with ether and the aqueous layer was neutralized with 1N HCl, and concentrated in vacuo to afford 3-(((1-(tert-butoxycarbonyl)pyrrolidin-3-yl)methylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid as an off-white solid. [M+H] found 375.

reactant | 1-tert-butyl 4-methyl 3-(((1-(tert-butoxycarbonyl)pyrrolidin-3-yl)methylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate | 0.143 mmol, 70 mg | C(C)(C)(C)OC(=O)N1CC(CC1)CNCC1=CN(C=2N=CC=C(C21)C(=O)OC)C(=O)OC(C)(C)C | C25H36N4O6
reactant | LiOH | 0.358 mmol, 1N, 0.358 mL | [Li+].[OH-]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-(((1-(tert-butoxycarbonyl)pyrrolidin-3-yl)methylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(CC1)CNCC1=CNC=2N=CC=C(C21)C(=O)O | C19H26N4O4
